US08383644B2
(S)-3-(4′-Cyano-biphenyl-4-yl)-2-({(S)-3-[4-(3,4-dichloro-benzyloxy)-phenyl]-2,3,6,7,8,9-hexahydro-[1,4]dioxino[2,3-g]isoquinoline-8-carbonyl}-amino)-propionic acid methyl ester (32 mg) was reacted with 4-acetylamino-benzenesulfonyl chloride to give (S)-2-({(S)-7-(4-acetylamino-benzenesulfonyl)-3-[4-(3,4-dichloro-benzyloxy)-phenyl]-2,3,6,7,8,9-hexahydro-[1,4]dioxino[2,3-g]isoquinoline-8-carbonyl}-amino)-3-(4′-cyano-biphenyl-4-yl)-propionic acid methyl ester according to General Procedure E. This product (20 mg) was hydrolysed according to General Procedure B to give the title compound (3 mg). LCMS (m/z): 931.

reactant | (S)-3-(4′-Cyano-biphenyl-4-yl)-2-({(S)-3-[4-(3,4-dichloro-benzyloxy)-phenyl]-2,3,6,7,8,9-hexahydro-[1,4]dioxino[2,3-g]isoquinoline-8-carbonyl}-amino)-propionic acid methyl ester | 32 mg | COC([C@H](CC1=CC=C(C=C1)C1=CC=C(C=C1)C#N)NC(=O)C1NCC=2C=C3C(=CC2C1)OC[C@@H](O3)C3=CC=C(C=C3)OCC3=CC(=C(C=C3)Cl)Cl)=O | C42H35Cl2N3O6
reactant | 4-acetylamino-benzenesulfonyl chloride | C(C)(=O)NC1=CC=C(C=C1)S(=O)(=O)Cl | C8H8ClNO3S
product | (S)-2-({(S)-7-(4-acetylamino-benzenesulfonyl)-3-[4-(3,4-dichloro-benzyloxy)-phenyl]-2,3,6,7,8,9-hexahydro-[1,4]dioxino[2,3-g]isoquinoline-8-carbonyl}-amino)-3-(4′-cyano-biphenyl-4-yl)-propionic acid methyl ester | COC([C@H](CC1=CC=C(C=C1)C1=CC=C(C=C1)C#N)NC(=O)C1N(CC=2C=C3C(=CC2C1)OC[C@@H](O3)C3=CC=C(C=C3)OCC3=CC(=C(C=C3)Cl)Cl)S(=O)(=O)C3=CC=C(C=C3)NC(C)=O)=O | C50H42Cl2N4O9S
